US06162819
1-Benzyl-3-(5-(1-hydroxypropyl)-2-furyl)indazole:
At 10° C., 1.1 ml (1.1 mmol) of a 1M solution of ethylmagnesium bromide in THF were added dropwise to 300 mg (0.99 mmol) of 1-benzyl-3-(5-formyl-2-furyl)indazole in 20 ml of diethyl ether. After 1 h at 10° C., the mixture was poured into ice-water and extracted with ethyl acetate, dried and concentrated. The crude product was purified by silica gel chromatography using dichloromethane/methanol (95:5). This gave 200 mg (61%) of the title compound.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 1-benzyl-3-(5-formyl-2-furyl)indazole | 0.99 mmol, 300 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C=O | C19H14N2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 1-Benzyl-3-(5-(1-hydroxypropyl)-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(CC)O | C21H20N2O2
